US07723347B2
N-{4-[(3-Bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluorophenyl}-2,2,2-trifluoroacetamide
200 mg (0.38 mmol) of 2,2,2-trifluoro-N-{3-fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]phenyl}acetamide and 68.5 mg (0.38 mmol) of N-bromo-succinimide in 8 ml of carbon tetrachloride are heated at reflux for 20 min. After cooling, the mixture is diluted with water and dichloromethane and extracted. The organic phase is separated off, dried over sodium sulfate and concentrated under reduced pressure.

reactant | 2,2,2-trifluoro-N-{3-fluoro-4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]phenyl}acetamide | 0.38 mmol, 200 mg | FC(C(=O)NC1=CC(=C(C=C1)CC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C)F)(F)F | C22H25F4N3O2Si
reactant | N-bromo-succinimide | 0.38 mmol, 68.5 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[(3-Bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl]-3-fluorophenyl}-2,2,2-trifluoroacetamide | BrC1=CN(C2=NC=CC(=C21)CC2=C(C=C(C=C2)NC(C(F)(F)F)=O)F)COCC[Si](C)(C)C | C22H24BrF4N3O2Si
